US04284634
A mixture of diethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (970.9 mg), N,N-diethylethylenediamine (290.5 mg) and p-toluenesulfonic acid (catalytic amount) in dried benzene (20 ml) was refluxed under azeotropic dehydration for 4 hours. To the resultant solution was added diethyl ether and the solution was washed with water and dried. The solvent was removed to give red oil (1.1711 g) of diethyl 2-methyl-4-(2-nitrophenyl)-6-[2-(N,N-diethylamino)ethyl]iminomethyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | diethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 970.9 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C19H20N2O7
reactant | N,N-diethylethylenediamine | 290.5 mg | C(C)N(CCN)CC | C6H16N2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | diethyl 2-methyl-4-(2-nitrophenyl)-6-[2-(N,N-diethylamino)ethyl]iminomethyl-1,4-dihydropyridine-3,5-dicarboxylate | 1.1711 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=NCCN(CC)CC | C25H34N4O6
